US06448031B1
Z-Leu-Arg-OEt was dissolved in 500 mL of methanol. NH2NH2.H2O 150 mL was added with ice cooling to the solution, then the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, 500 mL of water was added to the obtained residue, then the product was extracted 5 times with 1000 mL of n-butanol. The extract was washed 4 times with 500 mL of water, then concentrated under reduced pressure. The resulting residue was solidified by treatment with ether, then it was dried. Thus, 209.7 g of Z-Leu-Arg-NHNH2 (74.1% yield) was obtained.

reactant | Z-Leu-Arg-OEt | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C22H35N5O5
reactant | NH2NH2.H2O | 150 mL | NN.O
solvent | methanol | 500 mL | CO | CH4O
product | Z-Leu-Arg-NHNH2 | 209.7 g, 74.1% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C20H33N7O4
